US05981439
Synthesis of 5-chloro-8-methyl-6-(3-oxocyclohexen-2-yl)-4-(2-propoxy)thiochroman-1,1-dioxide
0.5 Gram of 5-chloro-8-methyl-6(1,3-dioxocyclohexan-2-yl)-4-(2-propoxy)thiochroman-1,1-dioxide (Compound No. 15 in Table 38) prepared in Preparation Example 6 was dissolved in 5 ml of 1,2-dichloroethane, and 0.12 g of triethylamine was added. The mixture was stirred at room temperature for 1 hour. A formed crystal was recovered by filtration to give, as an end product, 0.3 g of Compound No. 251 shown in Table 48 (yield 65%). Table 60 shows the physical property date of the obtained compound.

reactant | 5-chloro-8-methyl-6(1,3-dioxocyclohexan-2-yl)-4-(2-propoxy)thiochroman-1,1-dioxide | ClC1=C2C(CCS(C2=C(C=C1C1C(CCCC1=O)=O)C)(=O)=O)OC(C)C | C19H23ClO5S
reactant | triethylamine | 0.12 g | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | 5-chloro-8-methyl-6-(3-oxocyclohexen-2-yl)-4-(2-propoxy)thiochroman-1,1-dioxide | 0.3 g, yield 65% | ClC1=C2C(CCS(C2=C(C=C1C1=CCCCC1=O)C)(=O)=O)OC(C)C | C19H23ClO4S
